US04240820
11.8 ml (0.2 mole) of methyl isocyanate were added to a solution of 33.2 g (0.2 mole) of 2-amino-3-cyano-4-isopropyl-thiophene in 200 ml of toluene. After the exothermic reaction had subsided, the product which precipitated in the solid form was filtered off. Further portions of reaction product were obtained by concentrating the mother liquor. 25 g of 1-(3-cyano-4-isopropyl-thien-2-yl)-3-methyl-urea of melting point 179°-181° C. were obtained in this manner.

reactant | methyl isocyanate | 0.2 mole, 11.8 ml | CN=C=O | C2H3NO
reactant | 2-amino-3-cyano-4-isopropyl-thiophene | 0.2 mole, 33.2 g | NC=1SC=C(C1C#N)C(C)C | C8H10N2S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-cyano-4-isopropyl-thien-2-yl)-3-methyl-urea | 25 g | C(#N)C1=C(SC=C1C(C)C)NC(=O)NC | C10H13N3OS
